US04284641
(b) Preparation of 2-cyclooctenyl methyl bromide
A solution of phosphorus tribromide (1.02 cm3 ; 0.0105 m) in 40 to 60 petroleum ether (5 cm3) was added dropwise to a solution of 2-cyclooctenylcarbinol (2.8 g; 0.02 m) (fraction 9 above) and AR. Pyridine (0.104 g; 0.0013 m) in petroleum ether (15 cm3) stirred and cooled to -10° C. After addition the mixture was allowed to warm to room temperature and stood for 2 days. The reaction mixture was treated with water (50 cm3) and the organic layer separated. The aqueous layer was extracted with 40 to 60 petroleum ether (3×25 cm3) and the combined organic layer and petrol extracts washed with 2 N-NaOH (25 cm3) and water (25 cm3). The petrol extracts were combined and dried over anhydrous MgSO4 and the solvent removed under vacuum to leave a crude product 2.3 g. The crude product was distilled to give 0.7 g of pure product b.p. 48°-50°/0.25 mmHg.

reactant | phosphorus tribromide | 1.02 cm3 | P(Br)(Br)Br | Br3P
reactant | 2-cyclooctenylcarbinol | 2.8 g | C1(C=CCCCCC1)CO | C9H16O
reactant | Pyridine | 0.104 g | N1=CC=CC=C1 | C5H5N
solvent | water | 50 cm3 | O | H2O
product | 2-cyclooctenyl methyl bromide | 0.7 g | C1(C=CCCCCC1)CBr | C9H15Br
